US07056932B2
According to general method C, ethoxy-(3-pyridin-4-yl-pyrazol-1-yl)-acetic acid was reacted with [(4-aminomethyl-phenyl)-imino-methyl]-carbamic acid benzyl ester dihydrochloride (CAS 172348-75-3) to give (RS)-[amino-(4-{[2-ethoxy-2-(3-pyridin-4-yl-pyrazol-1-yl)-acetylamino]-methyl}-phenyl)-methylene]-carbamic acid benzyl ester. White powder. MS 513.3 ([M+H]+)

reactant | ethoxy-(3-pyridin-4-yl-pyrazol-1-yl)-acetic acid | C(C)OC(C(=O)O)N1N=C(C=C1)C1=CC=NC=C1 | C12H13N3O3
reactant | [(4-aminomethyl-phenyl)-imino-methyl]-carbamic acid benzyl ester dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)OC(NC(=N)C1=CC=C(C=C1)CN)=O
product | (RS)-[amino-(4-{[2-ethoxy-2-(3-pyridin-4-yl-pyrazol-1-yl)-acetylamino]-methyl}-phenyl)-methylene]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N=C(C1=CC=C(C=C1)CNC(C(N1N=C(C=C1)C1=CC=NC=C1)OCC)=O)N)=O | C28H28N6O4
